US09216980B2
Step 1: Trifluoromethanesulfonic acid 9-benzenesulfonyl-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yl ester
Trifluoromethanesulfonic anhydride (0.91 g, 0.54 mL, 3.22 mmol) was added dropwise to a suspension of 9-benzenesulfonyl-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (1.03 g, 2.93 mmol) in pyridine (1.2 mL, 14.7 mmol) and dry DCM (20 mL) at 0° C. The reaction mixture was then allowed to warm to ambient temperature and stirred for 2 h. The reaction mixture was treated with 1N hydrochloric acid (10 mL) and the phases were separated. The aqueous phase was extracted with DCM (2×10 mL), the combined organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by chromatography (silica, 5 g column, Si-SPE, DCM) to afford the title compound as a white solid (855 mg, 60%). LCMS (Method B): RT=4.22 min, M+H+=483.

reactant | Trifluoromethanesulfonic anhydride | 3.22 mmol, 0.54 mL, 0.91 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 9-benzenesulfonyl-5-hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 2.93 mmol, 1.03 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3O)C#N)C=CC=N2 | C17H10N4O3S
reactant | pyridine | 14.7 mmol, 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 9-benzenesulfonyl-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yl ester | 855 mg, 60% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3OS(=O)(=O)C(F)(F)F)C#N)C=CC=N2 | C18H9F3N4O5S2
